US07498350B2
(5R)-5-{[4-(Difluoromethyl)-1H-1,2,3-triazol-1-yl]methyl}-3-[3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-oxazolidin-2-one
(5R)-5-{[4-(Difluoromethyl)-1H-1,2,3-triazol-1-yl]methyl}-3-(3-fluoro-4-iodophenyl)-1,3-oxazolidin-2-one (2.56 g, 5.84 mmol), bis(pinacolato)diboron (3.71 g, 14.6 mmol), potassium acetate (2.0 g, 20.44 mmol), and 1,1′-[bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichoromethane complex (0.427 g, 0.584 mmol) were suspended in DMSO (10 ml). The mixture was heated at 80° C. for 90 minutes to give a clear black solution. After cooling down to room temperature, ethyl acetate (150 ml) was then added and the mixture was filtered through celite, washed with saturated brine (2×100 ml), dried over sodium sulfate and concentrated to dryness. The dark residue was dissolved in dichloromethane (20 ml), followed by slow addition of hexanes (100 ml), the resulting precipitate was filtered and washed with 5% dichloromethane in hexanes and collected as the desirred product (1.73 g) which was used directly as an intermediate without further purification.

reactant | (5R)-5-{[4-(Difluoromethyl)-1H-1,2,3-triazol-1-yl]methyl}-3-(3-fluoro-4-iodophenyl)-1,3-oxazolidin-2-one | 5.84 mmol, 2.56 g | FC(C=1N=NN(C1)C[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)I)F)F | C13H10F3IN4O2
reactant | bis(pinacolato)diboron | 14.6 mmol, 3.71 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 20.44 mmol, 2.0 g | C(C)(=O)[O-].[K+]
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | (5R)-5-{[4-(Difluoromethyl)-1H-1,2,3-triazol-1-yl]methyl}-3-[3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-oxazolidin-2-one | FC(C=1N=NN(C1)C[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)F | C19H22BF3N4O4
